US05162316
7-Methylthio-2-(2-ethoxyphenyl)-4-oxo-3,4-dihydropyrimido[4,5-d]pyrimidine
2-Ethoxybenzamidine (from sodium, 0.08 g, in ethanol, 10 ml, and 2-ethoxybenzamidine hydrochloride, 0.70 g) was dissolved in acetonitrile (10 ml) and the resulting cooled (2° C.) solution was added to a cooled (2° C.) suspension of ethyl 4-chloro-2-methylthio-5-pyrimidine carboxylate (0.81 g) in acetonitrile (10 ml). The reaction mixture was stirred at 2° C. for one hour. Triethylamine (0.35 g) was added and the reaction mixture was stirred at ambient temperature for 21 hours to yield a white precipitate, 0.22 g, which was collected by filtration. The filtrate was reduced in volume under reduced pressure to yield a second crop of solid, 0.41 g. The products were combined and recrystallised from ethanol to yield the title compound, 0.30 g, m.p. 224.5°-225.5° C.

reactant | 2-Ethoxybenzamidine | 10 ml, 0.08 g | C(C)OC1=C(C(=N)N)C=CC=C1 | C9H12N2O
reactant | ethyl 4-chloro-2-methylthio-5-pyrimidine carboxylate | 0.81 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | Triethylamine | 0.35 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-Methylthio-2-(2-ethoxyphenyl)-4-oxo-3,4-dihydropyrimido[4,5-d]pyrimidine | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCC | C15H14N4O2S
